US04692460
A 12.32 g (0.034 moles) sample of ethyl 5,6-dihydro-2-methyl-3-[4-(methyl-thio)benzoyl]-4H-cyclopenta[b]thiophene-6-carboxylate, the product of Example 1h., was dissolved in 200 ml of refluxing MeOH. 81.32 ml (0.044 moles) of 0.5M sodium hydroxide was added dropwise over 45 min. The reaction was stirred for an additional 20 min at reflux. The MeOH was evaporated in vacuo and the residue was poured into 3N hydrochloric acid and ice. A sticky solid was filtered off, washed with water and was taken up in Et2O. The ether was washed with brine and dried (MgSO4). Evaporation of the solvent gave a tan solid which was recrystallized from acetonitrile to give 10.00 g of 5,6-dihydro-2-methyl-3-(4-(methylthio)benzoyl)-4H-cyclopenta[b]thiophene-6-carboxylic acid (88%), mp 131°-133° C.

reactant | ethyl 5,6-dihydro-2-methyl-3-[4-(methyl-thio)benzoyl]-4H-cyclopenta[b]thiophene-6-carboxylate | CC1=C(C2=C(S1)C(CC2)C(=O)OCC)C(C2=CC=C(C=C2)SC)=O | C19H20O3S2
reactant | sodium hydroxide | 0.044 moles, 0.5M, 81.32 ml | [OH-].[Na+]
solvent | MeOH | 200 ml | CO | CH4O
product | 5,6-dihydro-2-methyl-3-(4-(methylthio)benzoyl)-4H-cyclopenta[b]thiophene-6-carboxylic acid | 10.00 g, 88% | CC1=C(C2=C(S1)C(CC2)C(=O)O)C(C2=CC=C(C=C2)SC)=O | C17H16O3S2
